US06809199B2
To a −78° C. solution of 11.56 g of 3-(2,6-dibromo-4-methoxyphenyl)-propionic acid in 300 mL of CH2Cl2 was added dropwise 17.1 mL of a 1.0M solution of oxalyl bromide, then 1.7 mL of DMF. The mixture was allowed to warm to room temperature. When gas evolution ceased, the mixture was recooled to −78° C. Diisopropyl ethylamine (7.14 mL) was added dropwise, then a solution of 5.54 g of 2,6-dichloroaniline in 10 mL of CH2Cl2 was added dropwise. The mixture was allowed to warm to room temperature, then stirred overnight at this temperature. The white precipitate was collected to yield the N-(2,6-Dichlorophenyl)-3-(2,6-dibromo-4-methoxyphenyl)-propionamide as a white solid. The filtrate was concentrated and recrystallized from EtOH to yield an additional amount of N-(2,6-Dichlorophenyl)-3-(2,6-dibromo-4-methoxyphenyl)-propionamide as a white solid. Mass spectrum (ESI) 481.9 (M+1). 1H NMR (500 MHz, DMSO-d6): δ 9.89 (s, 1H); 7.53 (d, J=8.2 Hz, 2H); 7.34 (t, J=8.0 Hz, 1H); 7.27 (s, 2H); 3.77 (s, 3H); 3.16 (m, 2H); 2.53 (m, 2H).

reactant | 3-(2,6-dibromo-4-methoxyphenyl)-propionic acid | 11.56 g | BrC1=C(C(=CC(=C1)OC)Br)CCC(=O)O | C10H10Br2O3
reactant | oxalyl bromide | C(C(=O)Br)(=O)Br | C2Br2O2
reactant | Diisopropyl ethylamine | 7.14 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,6-dichloroaniline | 5.54 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 1.7 mL | CN(C)C=O | C3H7NO
product | N-(2,6-Dichlorophenyl)-3-(2,6-dibromo-4-methoxyphenyl)-propionamide | ClC1=C(C(=CC=C1)Cl)NC(CCC1=C(C=C(C=C1Br)OC)Br)=O | C16H13Br2Cl2NO2
